US05827638
While mixing and stirring 193 g of 3-nitrocinnamic acid, 2 of methanol and 50 g of concentrated sulfuric acid, the mixture was heated under reflux for 2 hours. The reaction solution was poured into water and the crystals obtained were filtered. To a reaction solution under heat-refluxing while mixing and stirring 2 of 2-propanol, 200 ml of water, 20 g of ammonium chloride and 200 g of reduced iron, the crystals obtained above were gradually added, and the solution was further heated under reflux for one hour. The reaction solution still being hot was filtered, the filtrate was poured into 10 of water, and the crystals (methyl 3-aminocinnamate) obtained were collected by filtration. Yield: 108 g.

reactant | 3-nitrocinnamic acid | 193 g | [N+](=O)([O-])C=1C=C(C=CC(=O)O)C=CC1 | C9H7NO4
reactant | methanol | CO | CH4O
reactant | sulfuric acid | 50 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | methyl 3-aminocinnamate | NC=1C=C(C=CC(=O)OC)C=CC1 | C10H11NO2
